US03960892
To a stirred suspension of 2.0090 g. (9.122 mM) of 4-methyl-1-oxo-1H-2-benzothiopyran-3-carboxylic acid in 50 ml. of distilled water is added 0.7663 g. (9.122 mM) of sodium bicarbonate. After stirring at room temperature for 1.5 hours, the solution is filtered and the filtrate freeze-dried to give sodium 4-methyl-1-oxo-1H-2-benzothiopyran-3-carboxylate, m.p. 330° (dec.).

reactant | 4-methyl-1-oxo-1H-2-benzothiopyran-3-carboxylic acid | 9.122 mM | CC1=C(SC(C2=C1C=CC=C2)=O)C(=O)O | C11H8O3S
reactant | sodium bicarbonate | 9.122 mM | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | sodium 4-methyl-1-oxo-1H-2-benzothiopyran-3-carboxylate | CC1=C(SC(C2=C1C=CC=C2)=O)C(=O)[O-].[Na+] | InChI=1S/C11H8O3S.Na/c1-6-7-4-2-3-5-8(7)11(14)15-9(6)10(12)13;/h2-5H,1H3,(H,12,13);/q;+1/p-1
